US04267179
To a stirred solution of 13.5 parts of 2,4-dihydro-5-methyl-4-(4-nitrophenyl)-3H-1,2,4-triazol-3-one in 100 parts of dimethyl sulfoxide are added 2 parts of sodium hydride dispersion 78% and the whole is stirred till foaming has ceased. Then there are added dropwise 8.1 parts of dimethyl sulfate. Upon completion, stirring is continued for 3 hours at room temperature. The reaction mixture is poured onto water and the product is extracted three times with trichloromethane. The combined extracts are washed with water, dried, filtered and evaporated. The residue is crystallized from a mixture of 2-propanol and 2,2'-oxybispropane. The product is filtered off and recrystallized from 4-methyl-2-pentanone, yielding 6.3 parts of 2,4-dihydro-2,5-dimethyl-4-(4-nitrophenyl)-3H-1,2,4-triazol-3-one; mp. 153.2° C.

reactant | 2,4-dihydro-5-methyl-4-(4-nitrophenyl)-3H-1,2,4-triazol-3-one | CC=1N(C(NN1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H8N4O3
reactant | sodium hydride | [H-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2,4-dihydro-2,5-dimethyl-4-(4-nitrophenyl)-3H-1,2,4-triazol-3-one | CN1N=C(N(C1=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C10H10N4O3
